US04216312
A solution of 2,4-dimethyl-3-hydroxymethylfuran (11 g.) in dichlormethane (25 ml.) was added to a cooled slurry of triphenylphosphine hydrobromide (34 g.) in dichloromethane to give a clear solution. After standing a further 30 minutes at room temperature the bulk of the solvent was distilled off and the residue was crystallized from a 1:4 parts by volume mixture of methanol and ethylacetate to yield a buff colored solid (27.2 g.) of (2,4-dimethyl-3-furyl)methyl triphenylphosphonium bromide, m.p. 248°-249°.

reactant | 2,4-dimethyl-3-hydroxymethylfuran | 11 g | CC=1OC=C(C1CO)C | C7H10O2
reactant | triphenylphosphine hydrobromide | 34 g | Br.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | dichlormethane | 25 ml | ClCCl | CH2Cl2
product | (2,4-dimethyl-3-furyl)methyl triphenylphosphonium bromide | 27.2 g | [Br-].CC=1OC=C(C1C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | InChI=1S/C25H24OP.BrH/c1-20-18-26-21(2)25(20)19-27(22-12-6-3-7-13-22,23-14-8-4-9-15-23)24-16-10-5-11-17-24;/h3-18H,19H2,1-2H3;1H/q+1;/p-1
